US07812024B2
Step A. Preparation N,N-diethyl-4-hydroxy-2-(trifluoromethoxy)benzamide
To a stirring degassed solution of N,N-diethyl-4-bromo-2-(trifluoromethoxy)benzamide (2768 mg, 8.2 mmol), bis(pinacolato)diboron (2281 mg, 9.0 mmol), and potassium acetate (2402 mg, 24.5 mmol) in dry DMF (60 mL) was added palladium(II) acetate (55 mg, 0.25 mmol). The reaction was heated to 80° C. for 2 h and then cooled to room temp. The reaction was quenched with water and extracted with EtOAc (3×75 mL). The organic layers were combined, dried over Na2SO4, and conc. in vacuo to a brown oil. The oil was dissolved in THF (40 mL) and acetic acid (2.0 mL) and treated with hydrogen peroxide (8 mL). The reaction was stirred for 15 min and then quenched with st. aq. NaHSO3. The reaction was extracted with EtOAc (3×40 mL). The organic layers were combined, dried over Na2SO4, and conc. in vacuo to a brown oil. The oil was purified by flash chromatography (silica gel, 20-70% EtOAc in hexanes) to give 1876 mg of the desired product as a white solid. MS (ESI) 278 (M+H).

reactant | N,N-diethyl-4-bromo-2-(trifluoromethoxy)benzamide | 8.2 mmol, 2768 mg | C(C)N(C(C1=C(C=C(C=C1)Br)OC(F)(F)F)=O)CC | C12H13BrF3NO2
reactant | bis(pinacolato)diboron | 9.0 mmol, 2281 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 24.5 mmol, 2402 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 0.25 mmol, 55 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N,N-diethyl-4-hydroxy-2-(trifluoromethoxy)benzamide | 1876 mg | C(C)N(C(C1=C(C=C(C=C1)O)OC(F)(F)F)=O)CC | C12H14F3NO3
